.Subckt BipolarPin C Ci B Bi E Ei params: Lc=2n Lb=2n Le=2n Ccb=50f Cce=50f Ceb=50f
Ccb c b {Ccb}
Cce c e {Cce}
Ceb E b {Ceb}
Lc C Ci {Lc} Rser=0 Rpar={10.e9*Lc}
Le E Ei {Le} Rser=0 Rpar={10.e9*Le}
Lb B Bi {Lb} Rser=0 Rpar={10.e9*Lb}
.ends BipolarPin
